US03974161
7-Hydroxy-8-Methoxypyrimido[4,5-b]Quinolin-4(3H)One-2-Carboxylic Acid
In like manner, ethyl 7-hydroxypyrimido[4,5-b]quinolin-4(3H)one-2-carboxylate hemitrifluoroacetate (210 mg.) is converted to 7hydroxypyrimido[4,5-b]quinolin-4(3H)one-2-carboxylic acid. Yield - 191 mg., 91%; m.p. 340°C (dec.)

reactant | ethyl 7-hydroxypyrimido[4,5-b]quinolin-4(3H)one-2-carboxylate | OC=1C=C2C=C3C(=NC2=CC1)N=C(NC3=O)C(=O)OCC | C14H11N3O4
reactant | 7hydroxypyrimido[4,5-b]quinolin-4(3H)one-2-carboxylic acid | OC=1C=C2C=C3C(=NC2=CC1)N=C(NC3=O)C(=O)O | C12H7N3O4
product | 7-Hydroxy-8-Methoxypyrimido[4,5-b]Quinolin-4(3H)One-2-Carboxylic Acid | OC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)O | C13H9N3O5
